US07141596B2
Step 1. Methyl (2S)-3-(4-amino-3-chlorophenyl)-2-[(tert-butoxycarbonyl-)amino]propanoate
Methyl (2S)-3-(4-aminophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate (1.0 g, 3.22 mmol) and N-chlorosuccinimide (474 mg, 3.55 mmol) were dissolved in DMF (20 mL) and allowed to stir under an atmosphere of nitrogen for 24 h. The reaction was quenched with water and diluted with ethyl acetate (100 mL). The organic phase was separated, dried over sodium sulfate, filtered and concentrated in vacuo. The crude material was purified by silica gel column (5–20% ethyl acetate/hexanes) to afford the product as a clear oil (645 mg, 61%). 1H NMR (400 MHz, CD3OD): δ 7.05 (s, 1H), 6.90–6.87 (m, 1H), 6.76–6.74 (m, 1H), 4.27–4.23 (m, 1H), 3.68 (s, 3H), 2.97–2.92 (m, 1H), 2.78–2.72 (m, 1H), 1.39 (s, 9H); LCMS found for C10H14ClN2O2 (M+H)+: m/z=229.

reactant | Methyl (2S)-3-(4-aminophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate | 3.22 mmol, 1.0 g | NC1=CC=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C15H22N2O4
reactant | N-chlorosuccinimide | 3.55 mmol, 474 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Methyl (2S)-3-(4-amino-3-chlorophenyl)-2-[(tert-butoxycarbonyl-)amino]propanoate | 645 mg, 61% | NC1=C(C=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OC(C)(C)C)Cl | C15H21ClN2O4
